US04436748
A mixture of 2.5 g of 6,7-dichloro-2-cyclopentyl-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene and 10 ml of glacial acetic acid containing 5 ml of boron trifluoride etherate is warmed on a steam bath for 15 minutes and allowed to stand overnight. The mixture is poured into a chilled solution of dilute sodium hydroxide and the organic material is extracted into ether. Washing with water, followed by drying over anhydrous magnesium sulfate and evaporation in vacuo, gives 2.0 g of wax-like crystals. Recrystallization from ether-hexane gives 1.8 g of 6,7-dichloro-2-cyclopentyl-5-methoxybenzo-[b]thiophene as fine needles, mp 59.5°-60°.

reactant | 6,7-dichloro-2-cyclopentyl-2,3-dihydro-3-hydroxy-5-methoxybenzo[b]thiophene | 2.5 g | ClC=1C(=CC2=C(SC(C2O)C2CCCC2)C1Cl)OC | C14H16Cl2O2S
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6,7-dichloro-2-cyclopentyl-5-methoxybenzo-[b]thiophene | 1.8 g | ClC=1C(=CC2=C(SC(=C2)C2CCCC2)C1Cl)OC | C14H14Cl2OS
